US06995144B2
1-(tert-Butoxycarbonyl)-4-[(2-fluorophenyl)ethynyl]-4-hydroxypiperidine
After dissolving 12.6 g of carbon tetrabromide in 80 ml of dichloromethane, the solution was cooled to 0° C. A 20 g portion of triphenylphosphine was added thereto in small portions at a time, and the mixture was stirred for 1 hour. A solution of 2.4 g of 2-fluorobenzaldehyde in dichloromethane (70 ml) was added dropwise and stirring was continued at 0° C. for 4 hours. After stirring overnight at room temperature, hexane was added and the mixture was filtered. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (solvent: n-hexane/ethyl acetate). The obtained 3.7 g of 1,1-dibromo-2-(2-fluorophenyl)ethene was dissolved in 30 ml of tetrahydrofuran, and the solution was cooled to −78° C. Next, 18 ml of n-butyllithium (1.6 M, n-hexane solution) was added dropwise. The mixture was stirred at −78° C. for 1 hour and then at room temperature for 1 hour. The obtained reaction solution was added dropwise to a solution of 2.6 g of tert-butyl 4-oxo-1-piperidinecarboxylate in tetrahydrofuran (100 ml) which had been cooled to −78° C. After stirring the mixture for 4 hours while slowly raising the temperature to room temperature, saturated aqueous ammonium chloride solution was added and extraction was performed with ethyl acetate. The organic layer was dried over magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (solvent: n-hexane/ethyl acetate) to obtain the title compound (1.4 g, 23% yield, 2 steps).

reactant | carbon tetrabromide | 12.6 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-fluorobenzaldehyde | 2.4 g | FC1=C(C=O)C=CC=C1 | C7H5FO
reactant | tert-butyl 4-oxo-1-piperidinecarboxylate | 2.6 g | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 1-(tert-Butoxycarbonyl)-4-[(2-fluorophenyl)ethynyl]-4-hydroxypiperidine | 1.4 g, 23% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)(O)C#CC1=C(C=CC=C1)F | C18H22FNO3
